US04791110
3,6-dichloro-4-(1-hydroxymethyl-1-methylethyl)pyridazine
Ten ml. of water and 0.33 ml. of sulfuric acid were heated to 80°, and to it were added 0.75 g. of 3,6-dichloropyridazine and 2.55 g. of 3-hydroxy-2,2-dimethylpropanaldehyde. Then a solution of 5.7 g. of ammonium persulfate in 15 ml. of water was added dropwise over 10 minutes. The temperature of the mixture reached 100° during the addition. The mixture was stirred for one hour, and then 0.51 g. of the aldehyde and 1.1 g. of ammonium persulfate were added, and the mixture was stirred one hour more at 90°. It was then cooled and extracted twice with 30 ml. portions of dichloromethane. The organic layers were combined, washed with 30 ml. of water and then with 30 ml. of saturated aqueous sodium bicarbonate, and dried with sodium sulfate. The solvent was removed under vacuum to obtain 1.38 g. of oil, which was chromatographed on 100 g. of silica gel, eluting with one liter of 3:7 ethyl acetate:hexane and then with 2:3 ethyl acetate:hexane. The product-containing fractions were combined and evaporated under vacuum to obtain 0.43 g. of the desired product in crude form, about 80% pure by nuclear magnetic resonance analysis. The spectrum, taken in CDCl3 on a 90 mmHz instrument, showed the following characteristic features: δ7.59 (s, 1H); 4.02 (broad s, 3H); 1.46 (s, 6H).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 3-hydroxy-2,2-dimethylpropanaldehyde | OCC(C=O)(C)C | C5H10O2
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | O | H2O
product | 3,6-dichloro-4-(1-hydroxymethyl-1-methylethyl)pyridazine | ClC=1N=NC(=CC1C(C)(C)CO)Cl | C8H10Cl2N2O
